US06797820B2
To 1-(2,2-dimethyl-4-oxo-1,3-dioxolan-5-yl)-1-(2-(S)-carboxypyrrolidin-1-ylcarbonyl)pentane C-2 in DMF was added an amine R14NH2, DIEA and HATU and the solution stirred for 2 h. Aqueous workup followed by silica gel chromatography afforded 1-(2,2-dimethyl-4-oxo-1,3-dioxolan-5-yl)-1-(2-(S)-aminocarbonylpyrrolidin-1-ylcarbonyl)pentane C-3.

reactant | 1-(2,2-dimethyl-4-oxo-1,3-dioxolan-5-yl)-1-(2-(S)-carboxypyrrolidin-1-ylcarbonyl)pentane | CC1(OC(C(O1)=O)C(CCCC)C(=O)N1[C@@H](CCC1)C(=O)O)C | C16H25NO6
reactant | DIEA | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | CN(C)C=O | C3H7NO
product | 1-(2,2-dimethyl-4-oxo-1,3-dioxolan-5-yl)-1-(2-(S)-aminocarbonylpyrrolidin-1-ylcarbonyl)pentane | CC1(OC(C(O1)=O)C(CCCC)C(=O)N1[C@@H](CCC1)C(=O)N)C | C16H26N2O5
